US07314937B2
2-(3-Fluoro-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline is prepared from 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (104 mg, 0.3 mmol), NEt3 (0.14 mL, 1.1 mmol), and 3-fluorobenzenesulfonyl chloride (80 mg, 0.41 mmol) via a procedure substantially analogous to Procedure F except that an additional SCX column purification step is performed to give the free base product (90 mg, 70% yld) as an off-white solid. MS (ES+) 433.2(M+H)+.

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.3 mmol, 104 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.1 mmol, 0.14 mL | CCN(CC)CC | C6H15N
reactant | 3-fluorobenzenesulfonyl chloride | 0.41 mmol, 80 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | 2-(3-Fluoro-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline | FC=1C=C(C=CC1)S(=O)(=O)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | C23H29FN2O3S
